* Z:\celera\projects\Simplis\playcalum\Waltz\Waltz0\300\verification\sim_CLOCK.sxsch
*#SIMETRIX
X$CV 12 celera vars: simulation_module='name' status='dev' simulation='typical'

.node_map CLOCKofftime$0 20
.node_map CLOCKofftime$1 21
.node_map CLOCKofftime$2 22
.node_map CLOCKofftime$3 23
.node_map CLOCKofftime$4 24
.node_map CLOCKofftime$5 25
.node_map CLOCKofftime$6 26
.node_map CLOCKofftime$7 27
.node_map REXT 30
.node_map internal 29
.node_map REF 34
.node_map MUDV 28
.node_map enable 31
.node_map external 32
.node_map SYNC 33
.options
+ PSP_NPT=50001
+ POP_ITRMAX=20
+ POP_OUTPUT_CYCLES=5
+ SNAPSHOT_INTVL=0
+ SNAPSHOT_NPT=11
+ MIN_AVG_TOPOLOGY_DUR=1a
+ AVG_TOPOLOGY_DUR_MEASUREMENT_WINDOW=128
.tran 300u 0

.globalvar VIN = 5.0
.globalvar REF = 1.0
.globalvar tdext_khz=10

.PRINT V(#internal)
.GRAPH :#internal curveLabel= internal nowarn=true ylog=auto xlog=auto analysis=tran|pop disabled=false PROBEREF=Probe5  
.PRINT V(#external)
.GRAPH :#external curveLabel= external nowarn=true ylog=auto xlog=auto analysis=tran|pop disabled=false PROBEREF=Probe7  
R1 30 0 5k
X$U1 33 19 dbuf vars: logicgate_type='dbuf' logicgate_vmax=6
X$U2 18 celera vars: simulation_module='name' status='dev' simulation='typical'
X$U3 20 21 22 23 24 25 26 27 datamap0 vars: datamap_function='function' datamap_name='text' datamap_description='text' datamap_io='input' datamap_status_mode='live' datamap_status_readunits='us' datamap_status_enable='no' datamap_type='register' datamap_por='7' datamap_mode='readwrite' datamap_timeenable='no' datamap_function0='text' datamap_function0_off='text' datamap_function0_on='text' datamap_function1='text' datamap_function1_off='text' datamap_function1_on='text' datamap_function2='text' datamap_function2_off='text' datamap_function2_on='text' datamap_function3='text' datamap_function3_off='text' datamap_function3_on='text' datamap_function4='text' datamap_function4_off='text' datamap_function4_on='text' datamap_function5='text' datamap_function5_off='text' datamap_function5_on='text' datamap_function6='text' datamap_function6_off='text' datamap_function6_on='text' datamap_function7='text' datamap_function7_off='text' datamap_function7_on='text' datamap_code0='text' datamap_code1='text' datamap_code2='text' datamap_code3='text' datamap_code4='text' datamap_code5='text' datamap_code6='text' datamap_code7='text' datamap_range_units='text' datamap_startcode='0' datamap_newcode1='1' datamap_enabletimeunits1='us' datamap_newcode2='1' datamap_enabletimeunits2='us' datamap_newcode3='1' datamap_enabletimeunits3='us' datamap_newcode4='1' datamap_enabletimeunits4='us' datamap_newcode5='1' datamap_enabletimeunits5='us' datamap_newcode6='1' datamap_enabletimeunits6='us' datamap_newcode7='1' datamap_enabletimeunits7='us' datamap_newcode8='1' datamap_enabletimeunits8='us' datamap_text0=0 datamap_status_read=10 datamap_status_resettime=10 datamap_bits=4 datamap_text1=0 datamap_range_start=0 datamap_range_lsb=1 datamap_timeenablecodes=1 datamap_enabletime1=1 datamap_enabletime2=1 datamap_enabletime3=1 datamap_enabletime4=1 datamap_enabletime5=1 datamap_enabletime6=1 datamap_enabletime7=1 datamap_enabletime8=1 datamap_vmax=6
X$U4 28 29 31 32 0 CLOCKinternal
V1 28 0 PWL NSEG=2 X0=0 Y0=0 X1=1u Y1=0 X2=2u Y2={VIN} 
V2 34 0 PWL NSEG=2 X0=0 Y0=0 X1=1u Y1=0 X2=2u Y2={REF} 
V3 31 0 PWL NSEG=6 X0=0 Y0=0 X1=100u Y1=0 X2=100.001u Y2={VIN} X3=1600u Y3={VIN} X4=1600.001u Y4=0 X5=2m Y5=0 X6=2000.001u Y6={VIN} 
X$V4 19 0 PUL_SOURCE vars: _V1=0 _V2={VIN} _FREQ=380k _DELAY=200u _DRATIOx100=50 _T_RISE=2.6315789n _T_FALL=2.6315789n _DAMP_COEF=0 _PWIDTH=1.3131579u _OFF_UNTIL_DELAY=1 _IDLE_IN_POP=0 _USEPHASE=0 _PHASE=200u
** From Z:\celera\projects\Simplis\playcalum\Waltz\Waltz0\300\design\CLOCKinternal.sxcmp
.subckt CLOCKinternal 37 38 39 40 41
*#hierarchy
.node_map BUS1$0 34
.node_map BUS1$1 35
.node_map BUS1$2 36
.node_map clock_external 40
.node_map REXT 42
.node_map enable_clock 39
.node_map clock_internal 38
.node_map MUDV 37
.node_map GND 41
X$U1 38 pinprobe vars: pinprobe_description='Internal_clock' pinprobe_mode='output' pinprobe_input='tbd' pinprobe_output='pad'
X$U10 29 37 40 23 21 42 39 25 27 oscillator vars: osc_type='external' osc_accuracy='yes' osc_datasheet_accuracy_name='CLOCKaccuracy' osc_datasheet_accuracy_description='CLOCK_accuracy_at_400KHz_50K' osc_enable='pin' osc_enable_por='disable' osc_datasheet_enable_name='text' osc_datasheet_enable_description='text' osc_ss='no' osc_standbyclock='no' osc_standbyclockpor='disable' osc_ext_freq_default='yes' osc_ext_comment='0' osc_crystalbias='3.3' osc_crystalglobalref='yes' osc_crystalcleancountpor='32' osc_ss_configuration='fixed' osc_ss_enable_control='fixed' osc_ss_mode_por='sweep' osc_ss_enable_por='enable' osc_ss_clock_sync='synchronized' osc_ss_datasheetname='text' osc_dft='no' osc_ibias='global' osc_int_freq=1k osc_int_duty=50 osc_int_ireplica_gain=10 osc_int_1=0 osc_ext_freq=400 osc_ext_resistor=50 osc_ext_duty=50 osc_ext_replicagain=1 osc_crude_freq=1 osc_crude_duty=50 osc_crystalfreq=1 osc_crystalreflocal=1 osc_ringfreq=20 osc_ss_range_por=5 osc_ss_clock_independent=50 osc_ss_clock_divide=64 osc_vmax=6
X$U2 39 pinprobe vars: pinprobe_description='Enable_clock_brick' pinprobe_mode='tbd' pinprobe_input='tbd' pinprobe_output='tbd'
X$U3 41 pinprobe vars: pinprobe_description='External_SyNC_input' pinprobe_mode='input' pinprobe_input='pad' pinprobe_output='tbd'
X$U4 41 42 31 32 33 34 35 36 resistor vars: resistor_control='resistor' resistor_datasheet_accuracy_name='text' resistor_datasheet_accuracy_description='text' resistor_adjust_control='factory' resistor_datasheet_adjust_name='text' resistor_datasheet_adjust_description='text' resistor_kelvin='no' resistor_type='tbd' resistor_dft='no' resistor_value=50 resistor_accurate_value=10 resistor_accurate_lsb=1 resistor_adjust0=0 resistor_adjust1=0 resistor_adjust2=0 resistor_adjust3=0 resistor_adjust4=0 resistor_adjust5=0 resistor_adjust6=0 resistor_adjust7=0 resistor_adjust_por=0 resistor_1=0 resistor_0=0 resistor_vmax=6 resistor_maximumvoltage=6 resistor_imax=1m
X$U5 40 pinprobe vars: pinprobe_description='Clock_faulted_at_startup' pinprobe_mode='output' pinprobe_input='tbd' pinprobe_output='tbd'
X$U6 37 pinprobe vars: pinprobe_description='MUD_low_voltage_supply' pinprobe_mode='input' pinprobe_input='pad' pinprobe_output='tbd'
X$U8 30 37 38 24 22 37 39 26 28 oscillator vars: osc_type='external' osc_accuracy='yes' osc_datasheet_accuracy_name='CLOCKaccuracy' osc_datasheet_accuracy_description='CLOCK_accuracy_at_400KHz_50K' osc_enable='pin' osc_enable_por='disable' osc_datasheet_enable_name='text' osc_datasheet_enable_description='text' osc_ss='no' osc_standbyclock='no' osc_standbyclockpor='disable' osc_ext_freq_default='yes' osc_ext_comment='0' osc_crystalbias='3.3' osc_crystalglobalref='yes' osc_crystalcleancountpor='32' osc_ss_configuration='fixed' osc_ss_enable_control='fixed' osc_ss_mode_por='sweep' osc_ss_enable_por='enable' osc_ss_clock_sync='synchronized' osc_ss_datasheetname='text' osc_dft='no' osc_ibias='global' osc_int_freq=1k osc_int_duty=50 osc_int_ireplica_gain=10 osc_int_1=0 osc_ext_freq=400 osc_ext_resistor=50 osc_ext_duty=50 osc_ext_replicagain=1 osc_crude_freq=1 osc_crude_duty=50 osc_crystalfreq=1 osc_crystalreflocal=1 osc_ringfreq=20 osc_ss_range_por=5 osc_ss_clock_independent=50 osc_ss_clock_divide=64 osc_vmax=6
.ends CLOCKinternal

.end
