* Z:\celera\projects\Simplis\playbrian\nesto\301a\verification\sim_DFF4test.sxsch
*#SIMETRIX
X$CV 12 celera vars: simulation_module='name' status='dev' simulation='typical'

.node_map PORB 33
.node_map RCLK 30
.node_map RQB 37
.node_map RD 34
.node_map FCLK 32
.node_map FQB 36
.node_map FD 39
.node_map RQ 35
.node_map RPORB 40
.node_map FQ 38
.node_map FPORB 41
.node_map CLK 31
.node_map GND 42
.node_map IN 29
.options
+ PSP_NPT=10001
+ POP_ITRMAX=20
+ POP_OUTPUT_CYCLES=5
+ POP_SHOWDATA
+ SNAPSHOT_INTVL=0
+ SNAPSHOT_NPT=11
+ MIN_AVG_TOPOLOGY_DUR=1a
+ AVG_TOPOLOGY_DUR_MEASUREMENT_WINDOW=128
*.pop TRIG_GATE={{TRIG_GATE}} TRIG_COND=0_TO_1 MAX_PERIOD=1u CONVERGENCE=1p CYCLES_BEFORE_LAUNCH=5 TD_RUN_AFTER_POP_FAILS=-1
.tran 300u 0
.globalvar REF=1.0
.globalvar TEMP=25
.globalvar VIN=5
.globalvar tdext_khz=1000

X$DFF4test 30 32 29 34 31 35 33 37 39 38 36 40 41 DFF4test

X$U1 0 celera vars: simulation_module='name' status='dev' simulation='typical'
** From Z:\celera\projects\Simplis\playbrian\nesto\301a\design\DFF4test.sxcmp
.subckt DFF4test 185 186 187 105 188 89 189 121 153 137 169 190 191
*#hierarchy
.node_map PORB 189
.node_map BUS1$10 99
.node_map BUS1$11 100
.node_map BUS1$12 101
.node_map BUS1$13 102
.node_map BUS1$14 103
.node_map BUS4$10 147
.node_map BUS1$15 104
.node_map BUS4$11 148
.node_map BUS4$12 149
.node_map RCLK 185
.node_map BUS4$13 150
.node_map BUS4$14 151
.node_map BUS4$15 152
.node_map BUS1$1 90
.node_map BUS1$2 91
.node_map BUS2$10 115
.node_map BUS1$3 92
.node_map BUS2$11 116
.node_map BUS1$4 93
.node_map BUS2$12 117
.node_map BUS1$5 94
.node_map BUS2$13 118
.node_map BUS1$6 95
.node_map BUS2$14 119
.node_map BUS1$7 96
.node_map BUS5$10 163
.node_map BUS2$15 120
.node_map BUS1$8 97
.node_map BUS5$11 164
.node_map BUS2$1 106
.node_map BUS1$9 98
.node_map BUS5$12 165
.node_map RQB 121
.node_map BUS2$2 107
.node_map BUS5$13 166
.node_map BUS2$3 108
.node_map FCLK 186
.node_map BUS5$14 167
.node_map BUS2$4 109
.node_map RD 105
.node_map BUS5$15 168
.node_map BUS2$5 110
.node_map BUS2$6 111
.node_map FQB 169
.node_map BUS2$7 112
.node_map BUS3$10 131
.node_map BUS2$8 113
.node_map BUS3$11 132
.node_map BUS3$1 122
.node_map BUS2$9 114
.node_map FD 153
.node_map BUS3$12 133
.node_map BUS3$2 123
.node_map BUS3$13 134
.node_map BUS3$3 124
.node_map BUS3$14 135
.node_map BUS3$4 125
.node_map BUS6$10 179
.node_map BUS3$15 136
.node_map BUS3$5 126
.node_map BUS6$11 180
.node_map BUS3$6 127
.node_map BUS6$12 181
.node_map BUS3$7 128
.node_map BUS6$13 182
.node_map BUS3$8 129
.node_map BUS6$14 183
.node_map BUS4$1 138
.node_map BUS3$9 130
.node_map RQ 89
.node_map BUS6$15 184
.node_map BUS4$2 139
.node_map BUS4$3 140
.node_map BUS4$4 141
.node_map BUS4$5 142
.node_map BUS4$6 143
.node_map RPORB 190
.node_map BUS4$7 144
.node_map FQ 137
.node_map BUS4$8 145
.node_map BUS5$1 154
.node_map BUS4$9 146
.node_map BUS5$2 155
.node_map BUS5$3 156
.node_map BUS5$4 157
.node_map BUS5$5 158
.node_map BUS5$6 159
.node_map BUS5$7 160
.node_map BUS5$8 161
.node_map BUS6$1 170
.node_map BUS5$9 162
.node_map FPORB 191
.node_map BUS6$2 171
.node_map BUS6$3 172
.node_map BUS6$4 173
.node_map BUS6$5 174
.node_map BUS6$6 175
.node_map BUS6$7 176
.node_map BUS6$8 177
.node_map BUS6$9 178
.node_map CLK 188
.node_map IN 187
X$dff1 105 106 107 108 109 110 111 112 113 114 115 116 117 118 119 120 185 89 90 91 92 93 94 95 96 97 98 99 100 101 102 103 104 121 122 123 124 125 126 127 128 129 130 131 132 133 134 135 136 190 dffb vars: dff_edge='rise' dff_outputs='both' dff_bits=4 dff_vmax=6
X$dff2 153 154 155 156 157 158 159 160 161 162 163 164 165 166 167 168 186 137 138 139 140 141 142 143 144 145 146 147 148 149 150 151 152 169 170 171 172 173 174 175 176 177 178 179 180 181 182 183 184 191 dffb vars: dff_edge='fall' dff_outputs='both' dff_bits=4 dff_vmax=6
X$pinprobe1 105 pinprobe vars: pinprobe_description='Rising_D_Input' pinprobe_mode='output' pinprobe_input='tbd' pinprobe_output='pad' pinprobe_bits=1
X$pinprobe10 188 pinprobe vars: pinprobe_description='CLK' pinprobe_mode='input' pinprobe_input='ebrick' pinprobe_output='tbd' pinprobe_bits=1
X$pinprobe11 190 pinprobe vars: pinprobe_description='Rising_PORB_Input' pinprobe_mode='output' pinprobe_input='tbd' pinprobe_output='pad' pinprobe_bits=1
X$pinprobe12 191 pinprobe vars: pinprobe_description='Falling_PORB_Input' pinprobe_mode='output' pinprobe_input='tbd' pinprobe_output='pad' pinprobe_bits=1
X$pinprobe13 189 pinprobe vars: pinprobe_description='PORB' pinprobe_mode='input' pinprobe_input='ebrick' pinprobe_output='tbd' pinprobe_bits=1
X$pinprobe2 89 pinprobe vars: pinprobe_description='Rising_Q_Output' pinprobe_mode='output' pinprobe_input='tbd' pinprobe_output='pad' pinprobe_bits=1
X$pinprobe3 121 pinprobe vars: pinprobe_description='Rising_QB_Output' pinprobe_mode='output' pinprobe_input='tbd' pinprobe_output='pad' pinprobe_bits=1
X$pinprobe4 153 pinprobe vars: pinprobe_description='Falling_D_Input' pinprobe_mode='output' pinprobe_input='tbd' pinprobe_output='pad' pinprobe_bits=1
X$pinprobe5 137 pinprobe vars: pinprobe_description='Falling_Q_Output' pinprobe_mode='output' pinprobe_input='tbd' pinprobe_output='pad' pinprobe_bits=1
X$pinprobe6 169 pinprobe vars: pinprobe_description='Falling_QB_Output' pinprobe_mode='output' pinprobe_input='tbd' pinprobe_output='pad' pinprobe_bits=1
X$pinprobe7 185 pinprobe vars: pinprobe_description='Rising_CLK_Input' pinprobe_mode='output' pinprobe_input='tbd' pinprobe_output='pad' pinprobe_bits=1
X$pinprobe8 186 pinprobe vars: pinprobe_description='Falling_CLK_Input' pinprobe_mode='output' pinprobe_input='tbd' pinprobe_output='pad' pinprobe_bits=1
X$pinprobe9 187 pinprobe vars: pinprobe_description='Input' pinprobe_mode='input' pinprobe_input='ebrick' pinprobe_output='tbd' pinprobe_bits=1
X$U1 105 187 dbuf vars: logicgate_type='dbuf' logicgate_vmax=6
X$U10 84 170 dbuf vars: logicgate_type='dbuf' logicgate_vmax=6
X$U11 77 169 dbuf vars: logicgate_type='dbuf' logicgate_vmax=6
X$U12 76 138 dbuf vars: logicgate_type='dbuf' logicgate_vmax=6
X$U13 86 celeranoconn vars: ='%'
X$U14 72 137 dbuf vars: logicgate_type='dbuf' logicgate_vmax=6
X$U15 106 187 dbuf vars: logicgate_type='dbuf' logicgate_vmax=6
X$U16 107 187 dbuf vars: logicgate_type='dbuf' logicgate_vmax=6
X$U17 108 187 dbuf vars: logicgate_type='dbuf' logicgate_vmax=6
X$U18 153 187 dbuf vars: logicgate_type='dbuf' logicgate_vmax=6
X$U19 154 187 dbuf vars: logicgate_type='dbuf' logicgate_vmax=6
X$U2 153 187 dbuf vars: logicgate_type='dbuf' logicgate_vmax=6
X$U20 156 187 dbuf vars: logicgate_type='dbuf' logicgate_vmax=6
X$U21 155 187 dbuf vars: logicgate_type='dbuf' logicgate_vmax=6
X$U22 60 121 dbuf vars: logicgate_type='dbuf' logicgate_vmax=6
X$U23 67 122 dbuf vars: logicgate_type='dbuf' logicgate_vmax=6
X$U24 70 123 dbuf vars: logicgate_type='dbuf' logicgate_vmax=6
X$U25 71 124 dbuf vars: logicgate_type='dbuf' logicgate_vmax=6
X$U26 60 celeranoconn vars: ='%'
X$U27 67 celeranoconn vars: ='%'
X$U28 70 celeranoconn vars: ='%'
X$U29 71 celeranoconn vars: ='%'
X$U3 185 188 dbuf vars: logicgate_type='dbuf' logicgate_vmax=6
X$U30 64 91 dbuf vars: logicgate_type='dbuf' logicgate_vmax=6
X$U31 59 celeranoconn vars: ='%'
X$U32 55 celeranoconn vars: ='%'
X$U33 59 90 dbuf vars: logicgate_type='dbuf' logicgate_vmax=6
X$U34 55 89 dbuf vars: logicgate_type='dbuf' logicgate_vmax=6
X$U35 64 celeranoconn vars: ='%'
X$U36 69 celeranoconn vars: ='%'
X$U37 69 92 dbuf vars: logicgate_type='dbuf' logicgate_vmax=6
X$U38 86 140 dbuf vars: logicgate_type='dbuf' logicgate_vmax=6
X$U39 72 celeranoconn vars: ='%'
X$U4 188 186 inv vars: logicgate_type='inv' logicgate_vmax=6
X$U40 77 celeranoconn vars: ='%'
X$U41 84 celeranoconn vars: ='%'
X$U42 81 139 dbuf vars: logicgate_type='dbuf' logicgate_vmax=6
X$U43 87 171 dbuf vars: logicgate_type='dbuf' logicgate_vmax=6
X$U44 88 celeranoconn vars: ='%'
X$U45 88 172 dbuf vars: logicgate_type='dbuf' logicgate_vmax=6
X$U5 190 189 dbuf vars: logicgate_type='dbuf' logicgate_vmax=6
X$U6 191 189 dbuf vars: logicgate_type='dbuf' logicgate_vmax=6
X$U7 87 celeranoconn vars: ='%'
X$U8 76 celeranoconn vars: ='%'
X$U9 81 celeranoconn vars: ='%'
.ends DFF4test

** From Z:\celera\projects\Simplis\playbrian\nesto\301a\verification\FORCE_DFF4test.sxcmp


.end
